US04273704
26.0 Grams of methyl Boc-D-alanylglycinate is dissolved in 340 ml of acetic acid, and 170 ml of a 6 N solution of hydrogen chloride in dioxane is added to the solution. The reaction mixture is allowed to stand for ten minutes and then the solvent is removed under vacuum. The residue is triturated with diethyl ether. The resulting white precipitate is filtered and washed with diethyl ether to afford methyl-D-alanylglycinate hydrochloride.

reactant | methyl Boc-D-alanylglycinate | C(=O)(OC(C)(C)C)N[C@H](C)C(=O)NCC(=O)OC | C11H20N2O5
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 340 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | methyl-D-alanylglycinate hydrochloride | Cl.CN[C@H](C)C(=O)NCC(=O)O | InChI=1S/C6H12N2O3.ClH/c1-4(7-2)6(11)8-3-5(9)10;/h4,7H,3H2,1-2H3,(H,8,11)(H,9,10);1H/t4-;/m1./s1
